US09314464B2
Intermediate. 1-(3-Iodo-1-isopropyl-1H-pyrazol-4-yl)ethanone
To a solution of Intermediate 1-(3-amino-1-isopropyl-1H-pyrazol-4-yl)ethanone (3.97 g, 24 mmol) and p-TsOH.H2O (9.07 g, 48 mmole, 2 eq) in 150 ml of acetonitrile at 0° C. was added dropwise a solution of sodium nitrite (2.97 g, 43 mmole, 1.8 eq) and potassium iodide (8.0 g, 48 mmol, 2.0 eq) in 20 ml water. The mixture was stirred at this temperature for 10 minutes and then allowed to warm to rt and stirred for 3 h. The mixture was concentrated and then diluted with water and neutralized with aqueous sodium carbonate solution to pH 9 to 10. The mixture was extracted with ethyl acetate (3×). The combined organic layers were washed with sodium thiosulfate solution, dried over sodium sulfate, filtered, and concentrated. The residue was purified by silica gel column chromatography (1:1 hexanes/ethyl acetate eluant) to provide the title compound as a light brown solid. 1H NMR (400 MHz, DMSO-d6) δ 8.51 (s, 1H), 4.53 (m, 1H), 2.37 (s, 3H), 1.41 (d, J=7 Hz, 6H); MS m/z 279.1 (M+1).

reactant | 1-(3-amino-1-isopropyl-1H-pyrazol-4-yl)ethanone | 24 mmol, 3.97 g | NC1=NN(C=C1C(C)=O)C(C)C | C8H13N3O
reactant | p-TsOH.H2O | 48 mmole, 9.07 g, 2 eq | CC=1C=CC(=CC1)S(=O)(=O)O.O
reactant | sodium nitrite | 43 mmole, 2.97 g, 1.8 eq | N(=O)[O-].[Na+]
reactant | potassium iodide | 48 mmol, 8.0 g, 2.0 eq | [I-].[K+]
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | water | 20 ml | O | H2O
product | 1-(3-Iodo-1-isopropyl-1H-pyrazol-4-yl)ethanone | IC1=NN(C=C1C(C)=O)C(C)C | C8H11IN2O
